* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADA4510.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 20
Vin IN 0 SINE(0 50m 10k)
V2 -V 0 -20
Rload OUT 0 10k
X§U1 IN OUT +V -V OUT ADA4510
.tran 1m
.lib ADA4510.lib
.backanno
.end
